US09376396B2
10.2 4-[2-tert-Butyl-6-(2-hydroxy-ethyl)-pyrimidin-4-yl]-piperazine-1-carboxylic acid benzyl ester
To a solution of 2-tert-Butyl-4-(2-hydroxy-ethyl)-6-piperazin-1-yl-pyrimidine (5.1 g, 19.29 mmol) and N,N-diisopropylethylamine (7.48 g, 57.9 mmol) in THF (150 mL) was added benzyl chloroformate (CbzCl, 3.29 g, 19.29 mmol) dropwise at 0° C. The resulting mixture was stirred at room temperature overnight. The mixture was diluted with EA, washed with water, brine, dried over Na2SO4, filtered and concentrated to afford the crude title compound as an oil which was purified by column chromatography to afford the product (2.3 g, yield 29%) as a yellow oil.

reactant | 2-tert-Butyl-4-(2-hydroxy-ethyl)-6-piperazin-1-yl-pyrimidine | 19.29 mmol, 5.1 g | C(C)(C)(C)C1=NC(=CC(=N1)CCO)N1CCNCC1 | C14H24N4O
reactant | N,N-diisopropylethylamine | 57.9 mmol, 7.48 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl chloroformate | 19.29 mmol, 3.29 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | 4-[2-tert-Butyl-6-(2-hydroxy-ethyl)-pyrimidin-4-yl]-piperazine-1-carboxylic acid benzyl ester | 2.3 g, yield 29% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC(=NC(=C1)CCO)C(C)(C)C | C22H30N4O3
